US03931232
3-(1,2-Dimethylheptyl)-1-hydroxy-6,9-dimethylxanthene
A solution of 1.7 g. of 3-(1,2-dimethylheptyl)-5,6,7,8-tetrahydro-1-hydroxy-6,9-dimethylxanthene in 70 ml. of p-cymene is added dropwise over one hour to a stirred suspension of 0.56 g. of 10% palladium-on-carbon in 70 ml. of refluxing p-cymene under a nitrogen atmosphere. The reaction mixture is refluxed for four hours, cooled and chloroform is added. The mixture is filtered and the filtrate is concentrated in vacuo to give a residue which is chromatographed on silica gel with 1:1 chloroform-cyclohexane as eluant to give the title compound, b.p. 208°-210° (0.004 mm.).

reactant | 3-(1,2-dimethylheptyl)-5,6,7,8-tetrahydro-1-hydroxy-6,9-dimethylxanthene | CC(C(CCCCC)C)C=1C=C(C=2C(C=3CCC(CC3OC2C1)C)C)O | C24H36O2
reactant | p-cymene | CC=1C=CC(=CC1)C(C)C | C10H14
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(1,2-Dimethylheptyl)-1-hydroxy-6,9-dimethylxanthene | CC(C(CCCCC)C)C=1C=C(C=2C(C3=CC=C(C=C3OC2C1)C)C)O | C24H32O2
